US06414145B1
Potassium tert-butoxide (1.05 g; 9.39 mmnol) was added to mixture of thiazol-2-yl imidazol-1-ylmethyl ketone (1.20 g; 6.25 mmol), 3-methoxycarbonyl-5-phenylbenzyl triphenyl phosphonium bromide (5.3 g; 9.39 mmol) and 18-crown-6 (0.08 g; 0.24 mmol) in dichloromethane (20 ml), at −60° C. under an argon atmosphere. After stirring overnight, at room temperature, the resulting mixture was treated with a saturated aqueous solution of ammonium chloride purified by flash chromatography eluting with dichloromethane/ethanol (95/5) to give methyl 3-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]-5-phenylbenzoate (Z isomer). Yield=39%.

reactant | Potassium tert-butoxide | 1.05 g | CC(C)([O-])C.[K+]
reactant | thiazol-2-yl imidazol-1-ylmethyl ketone | 6.25 mmol, 1.20 g | N1(C=NC=C1)CC(=O)C=1SC=CN1 | C8H7N3OS
reactant | 3-methoxycarbonyl-5-phenylbenzyl triphenyl phosphonium bromide | 9.39 mmol, 5.3 g | [Br-].COC(=O)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C1=CC=CC=C1
reactant | 18-crown-6 | 0.24 mmol, 0.08 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 3-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]-5-phenylbenzoate | Yield=39% | S1C(=NC=C1)C(=CC=1C=C(C(=O)OC)C=C(C1)C1=CC=CC=C1)CN1C=NC=C1 | C23H19N3O2S
